US05608056
To a solution of 28% sodium methoxide in methanol solution (104 mg) in methanol (10 ml) were added (2R,4S)-1-allyloxycarbonyl-2-amidinomethyl-4-(triphenylmethylthio)pyrrolidine hydrochloride (1.0 g) and 3-dimethylaminoacrylaldehyde (190 mg). After stirring under reflux for 8 hours, the solution was poured into a mixture of ethyl acetate and water. The separated organic layer was washed with aqueous sodium chloride solution, dried over magnesium sulfate and evaporated. The residue was subjected to column chromatography on silica gel to give (2R,4S)-1-allyloxycarbonyl-2-(pyrimidin-2-ylmethyl)-4-(triphenylmethylthio) pyrrolidine (75 mg).

reactant | sodium methoxide | C[O-].[Na+]
reactant | (2R,4S)-1-allyloxycarbonyl-2-amidinomethyl-4-(triphenylmethylthio)pyrrolidine hydrochloride | 1.0 g | Cl.C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC(N)=N
reactant | 3-dimethylaminoacrylaldehyde | 190 mg | CN(C=CC=O)C | C5H9NO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 104 mg | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
solvent | water | O | H2O
product | (2R,4S)-1-allyloxycarbonyl-2-(pyrimidin-2-ylmethyl)-4-(triphenylmethylthio) pyrrolidine | 75 mg | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC1=NC=CC=N1 | C32H31N3O2S
